US07507740B2
Production of ethyl 2-phenoxy-5-(5H-pyrrolo[3,2-d]pyrimidin-4-ylamino)benzoate
A mixture of ethyl 4-chloro-5H-pyrrolo[3,2-d]pyrimidine (461 mg), 5-amino-2-phenoxybenzoate (926 mg) and 1-methyl-2-pyrrolidone (5 mL) was stirred at 80° C. for 2 hrs. Ethanol, water and activated carbon were added to the reaction mixture and the mixture was stirred. The activated carbon was filtered off, and the solvent was evaporated under reduced pressure. Aqueous sodium hydrogen carbonate solution was added to the residue and the mixture was extracted with ethyl acetate. The extract washed with water and saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (eluent, methanol:ethyl acetate=0:100→20:80) and recrystallized from ethanol-ethyl acetate to give the title compound (572 mg) as a colorless powder.

reactant | ethyl 4-chloro-5H-pyrrolo[3,2-d]pyrimidine | 461 mg | C(C)C=1N=C(C2=C(N1)C=CN2)Cl | C8H8ClN3
reactant | 5-amino-2-phenoxybenzoate | 926 mg | NC=1C=CC(=C(C(=O)[O-])C1)OC1=CC=CC=C1
reactant | 1-methyl-2-pyrrolidone | 5 mL | CN1C(CCC1)=O | C5H9NO
reactant | Ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | ethyl 2-phenoxy-5-(5H-pyrrolo[3,2-d]pyrimidin-4-ylamino)benzoate | 572 mg | O(C1=CC=CC=C1)C1=C(C(=O)OCC)C=C(C=C1)NC=1C2=C(N=CN1)C=CN2 | C21H18N4O3
